US07915424B2
3-(5-Methoxypyridin-3-ylethynyl)-benzonitrile
Prepare essentially as described in PREPARATION 10 using 3-iodobenzonitrile (681 mg, 3.0 mmol) and 3-ethynyl-5-methoxypyridine from PREPARATION 10 (415 mg, 3.1 mmol) at room temperature for 16 h to give the title compound (564 mg, 68%).

reactant | 3-iodobenzonitrile | 3.0 mmol, 681 mg | IC=1C=C(C#N)C=CC1 | C7H4IN
reactant | 3-ethynyl-5-methoxypyridine | C(#C)C=1C=NC=C(C1)OC | C8H7NO
product | 3-(5-Methoxypyridin-3-ylethynyl)-benzonitrile | 564 mg, 68% | COC=1C=C(C=NC1)C#CC=1C=C(C#N)C=CC1 | C15H10N2O
